**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Common Mode Line Filter 
* Matchcode:              WE-SL1
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  SL1    1  2  3  4  PARAMS:
L3 N004 N003 {L3} 
R50 N004 N003 {Rs3}
C1 4 N500 {C1} 
R500 N500 N002 {R2}
L7 4 N005 {L1} 
R51 4 N005 {Rs1}
L5 N005 N004 {L2} 
R52 N005 N004 {Rs2}
L4 N011 N010 {L3} 
R53 N011 N010 {Rs3}
C2 3 N501 {C1} 
R501 N501 N009 {R2}
L8 3 N012 {L1} 
R54 3 N012 {Rs1}
L6 N012 N011 {L2} 
R55 N012 N011 {Rs2}
L2 N010 N009 {L4} 
R56 N010 N009 {Rs4}
L1 N003 N002 {L4} 
R57 N003 N002 {Rs4}
R17 N001 1 {Rdc}
R18 N007 2 {Rdc}
R14 N002 N001 {dR4}
C3 N002 N502 {dC3} 
R502 N502 N001 {dR3}
L9 N006 N001 {dL3}
L10 N007 N008 {dL3}
C4 N006 N008 {ck}
R1000 N006 N008 1000G
C5 N009 N503 {dC3} 
R503 N503 N007 {dR3}
R15 N009 N007 {dR4}
L11 N002 N006 {dL3}
L12 N008 N009 {dL3}
K2 L3 L4 1
K3 L5 L6 1
K4 L7 L8 1
K1 L1 L2 1
K5 L9 L10 L11 L12 1
.ends SL1
*********
.SUBCKT  6536_744212100_10u    1  2  3  4  
X1  1  2  3  4  SL1  PARAMS:
+ L1=7.65u
+ L2=0.56u
+ L3=5u
+ L4=1u
+ C1=0.0722p
+ Rs1=161.14
+ Rs2=250.06
+ Rs3=1124.92
+ Rs4=752.83
+ R2=43.37
+ dL3=50.21nH
+ dC3=0.196pF
+ dR3=679.74
+ dR4=3904
+ Rdc=0.153
+ ck=0.405pF
.ends 6536_744212100_10u
*********
.SUBCKT  6536_744212470_47u    1  2  3  4  
X1  1  2  3  4  SL1  PARAMS:
+ Rdc=0.106
+ ck=1.52pF
+ L1=20.21u
+ L2=5.57u
+ L3=6.01u
+ L4=2.91u
+ C1=0.178pF
+ Rs1=158.72
+ Rs2=151.2
+ Rs3=117.13
+ Rs4=193.86
+ R2=8.77
+ dL3=21.71nH
+ dC3=0.221pF
+ dR3=2.09
+ dR4=903.16
.ends 6536_744212470_47u
*********
.SUBCKT  6536_744212510_51u    1  2  3  4  
X1  1  2  3  4  SL1  PARAMS:
+ Rdc=0.106
+ ck=1.52pF
+ L1=14.02u
+ L2=5.8u
+ L3=5.87u
+ L4=1.64u
+ C1=0.208pF
+ Rs1=133.15
+ Rs2=137.36
+ Rs3=173.16
+ Rs4=199.71
+ R2=8.54
+ dL3=21.02nH
+ dC3=0.350pF
+ dR3=2.79
+ dR4=850.8
.ends 6536_744212510_51u
*********
.SUBCKT  6536_744212820_82u    1  2  3  4  
X1  1  2  3  4  SL1  PARAMS:
+ Rdc=0.12
+ ck=1.52pF
+ L1=39.03u
+ L2=12.08u
+ L3=12.54u
+ L4=5.77u
+ C1=0.264p
+ Rs1=187.39
+ Rs2=284.35
+ Rs3=193.82
+ Rs4=318.52
+ R2=18.87
+ dL3=29.14nH
+ dC3=0.434pF
+ dR3=2.99
+ dR4=1153.55
.ends 6536_744212820_82u
*********
.SUBCKT  6536_744212101_100u    1  2  3  4  
X1  1  2  3  4  SL1  PARAMS:
+ dL3=38.34nH
+ dC3=0.294pF
+ dR3=1.58
+ dR4=1448.71
+ Rdc=0.124
+ ck=1.45pF
+ L1=33.14u
+ L2=14.15u
+ L3=5.52u
+ L4=2.9u
+ C1=0.256p
+ Rs1=291.03
+ Rs2=295.04
+ Rs3=296.6
+ Rs4=281.33
+ R2=10.41
.ends 6536_744212101_100u
*********
.SUBCKT  6536_744212181_180u    1  2  3  4  
X1  1  2  3  4  SL1  PARAMS:
+ dL3=58.81nH
+ dC3=0.569pF
+ dR3=5.13
+ dR4=1858.61
+ Rdc=0.185
+ ck=2.34pF
+ L1=72.36u
+ L2=21.67u
+ L3=13.81u
+ L4=7.48u
+ C1=0.436p
+ Rs1=565.42
+ Rs2=534.65
+ Rs3=580.20
+ Rs4=557.03
+ R2=13.23
.ends 6536_744212181_180u
*********
.SUBCKT  6536_744212221_220u    1  2  3  4  
X1  1  2  3  4  SL1  PARAMS:
+ Rdc=0.18
+ ck=2.46pF
+ L1=67.72u
+ L2=28.42u
+ L3=17.39u
+ L4=5.27u
+ C1=0.441p
+ Rs1=704.83
+ Rs2=690.79
+ Rs3=689.89
+ Rs4=698.14
+ R2=6.2
+ dL3=73.02nH
+ dC3=0.332pF
+ dR3=4.91
+ dR4=2342.19
.ends 6536_744212221_220u
*********
.SUBCKT  6536_744212331_330u    1  2  3  4  PARAMS:
+ dL3=84.50nH
+ dC3=0.726pF
+ dR3=3.34
+ dR4=2466.51
+ Rdc=0.233
+ ck=2.9pF
+ L1=97.37u
+ L2=75.64u
+ L3=24.92u
+ L4=13.85u
+ C1=0.416p
+ Rs1=214.02
+ Rs2=2450.86
+ Rs3=287.54
+ Rs4=1007.24
+ R2=30.64
+ dL5=21n
+ dR5=530
+ dC5=0.45p
L3 N005 N004 {L3} 
R50 N005 N004 {Rs3}
C1 4 N500 {C1} 
R500 N500 N003 {R2}
L7 4 N006 {L1} 
R51 4 N006 {Rs1}
L5 N006 N005 {L2} 
R52 N006 N005 {Rs2}
L4 N013 N012 {L3} 
R53 N013 N012 {Rs3}
C2 3 N501 {C1} 
R501 N501 N011 {R2}
L8 3 N014 {L1} 
R54 3 N014 {Rs1}
L6 N014 N013 {L2} 
R55 N014 N013 {Rs2}
L2 N012 N011 {L4} 
R56 N012 N011 {Rs4}
L1 N004 N003 {L4} 
R57 N004 N003 {Rs4}
R17 N001 1 {Rdc}
R18 N008 2 {Rdc}
R14 N002 N001 {dR4}
C3 N002 N502 {dC3} 
R502 N502 N001 {dR3}
L9 N007 N001 {dL3}
L10 N008 N009 {dL3}
C4 N007 N009 {ck}
C5 N010 N503 {dC3} 
R503 N503 N008 {dR3}
R15 N010 N008 {dR4}
L11 N002 N007 {dL3}
L12 N009 N010 {dL3}
L13 N003 N002 {dL5} 
R58 N003 N002 {dR5} 
C58 N003 N002 {dC5}
L14 N011 N010 {dL5} 
R59 N011 N010 {dR5} 
C59 N011 N010 {dC5}
K2 L3 L4 1
K3 L5 L6 1
K4 L7 L8 1
K1 L1 L2 1
K5 L9 L10 L11 L12 1
K5 L13 L14 1
.ends 6536_744212331_330u
